US08404709B2
4-(4-Cyano-2-methoxyphenyl)-5-ethoxy-2,7-dimethyl-1,4-dihydro-1,6-naphthyridine-3-carbonitrile
1920 mg (5.77 mmol) of 4-(4-cyano-2-methoxyphenyl)-2,7-dimethyl-5-oxo-1,4,5,6-tetrahydro-1,6-naphthyridine-3-carbonitrile are suspended in 40 ml (240 mmol) of anhydrous triethyl orthoformate. The reaction mixture is heated to 130° C. Then 10 drops of concentrated sulfuric acid are added each hour. After complete reaction has been detected (analytical HPLC; reaction time about 36 h), the reaction mixture is cooled to room temperature, and the volatile components are removed in a rotary evaporator. The crude product is purified by column chromatography (silica gel; mobile phase: cyclohexane/ethyl acetate 1:1). The product obtained in this way is crystallized from ethyl acetate. 451 mg (22% of theory) of the title compound are obtained as a white solid.

reactant | 4-(4-cyano-2-methoxyphenyl)-2,7-dimethyl-5-oxo-1,4,5,6-tetrahydro-1,6-naphthyridine-3-carbonitrile | 5.77 mmol, 1920 mg | C(#N)C1=CC(=C(C=C1)C1C(=C(NC=2C=C(NC(C12)=O)C)C)C#N)OC | C19H16N4O2
reactant | triethyl orthoformate | 240 mmol, 40 ml | C(OCC)(OCC)OCC | C7H16O3
catalyst | sulfuric acid | 10 drops | S(O)(O)(=O)=O | H2O4S
product | 4-(4-Cyano-2-methoxyphenyl)-5-ethoxy-2,7-dimethyl-1,4-dihydro-1,6-naphthyridine-3-carbonitrile | C(#N)C1=CC(=C(C=C1)C1C(=C(NC2=CC(=NC(=C12)OCC)C)C)C#N)OC | C21H20N4O2
